US08440693B2
Intermediate 95.1: 1-(4-Iodo-benzyl)-1H-imidazole
To a solution of imidazole (400 mg, 5.88 mmol) and K2CO3 (1.22 g, 8.81 mmol) in DMF (19 ml) was added 4-iodobenzyl bromide (1.83 g, 6.17 mol) at RT under protection from light. After stirring for 11.5 h, the reaction mixture was poured into water. The aqueous layer was extracted twice with EtOAc, the combined organic layers were washed with water and brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to afford the title compound (757 mg, 2.66 mmol, 45%) as a beige solid. HPLC: EtRet=3.838 min; LC-MS: m/z 285.2 [M+H]+.

reactant | imidazole | 5.88 mmol, 400 mg | N1C=NC=C1 | C3H4N2
reactant | K2CO3 | 8.81 mmol, 1.22 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-iodobenzyl bromide | 6.17 mol, 1.83 g | IC1=CC=C(CBr)C=C1 | C7H6BrI
reactant | water | O | H2O
solvent | DMF | 19 ml | CN(C)C=O | C3H7NO
product | 1-(4-Iodo-benzyl)-1H-imidazole | 2.66 mmol, 757 mg, 45% | IC1=CC=C(CN2C=NC=C2)C=C1 | C10H9IN2
